US07799822B2
4-(4-(3-(5-Chloro-1H-indol-1-yl)propanoyl)piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide
Synthesized according to general procedure 5, method A. The reaction was set up with 0.11 mmol 4-(piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide, 0.11 mmol 3-(5-chloro-1H-indol-1-yl)propanoic acid, 0.11 mmol BOP reagent, 0.11 mmol triethylamine and 250 μL DMF. Yield 53%. 1H NMR (400 MHz, DMSO-d6) δ 8.42 (s, 1H), 7.61-7.46 (m, 5H), 7.12 (dd, J=8.7, 2.1 Hz, 1H), 6.97 (d, J=9.1 Hz, 2H), 6.40 (d, J=2.5 Hz, 1H), 4.43 (t, J=6.8 Hz, 2H), 3.55 (t, J=5.2 Hz, 2H), 3.44 (t, J=4.9 Hz, 2H), 3.22 (t, J=5.1 Hz, 2H), 3.17 (t, J=5.0 Hz, 2H), 2.83-2.79 (m, 2H). LC/MS (10%-99% CH3CN (0.035% TFA)/H2O (0.05% TFA)), m/z: M+1 obs=531.1; tR=3.15 min.

reactant | 4-(piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | 0.11 mmol | N1(CCNCC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1 | C12H15N5O2S2
reactant | 3-(5-chloro-1H-indol-1-yl)propanoic acid | 0.11 mmol | ClC=1C=C2C=CN(C2=CC1)CCC(=O)O | C11H10ClNO2
reactant | BOP reagent | 0.11 mmol | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.11 mmol | C(C)N(CC)CC | C6H15N
solvent | H2O | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | DMF | 250 μL | CN(C)C=O | C3H7NO
product | 4-(4-(3-(5-Chloro-1H-indol-1-yl)propanoyl)piperazin-1-yl)-N-(1,2,4-thiadiazol-5-yl)benzenesulfonamide | Yield 53% | ClC=1C=C2C=CN(C2=CC1)CCC(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NC1=NC=NS1 | C23H23ClN6O3S2
